US05648370
b) (2,4-Dimethoxy-1,3-benzothiazol-7-yl)acetic acid
A solution of (2,4-dimethoxy-1,3-benzothiazol-7-yl)-acetonitrile (3.61 g, J. Med. Chem., 1987, 30, 1166) and potassium hydroxide (3.45 g) in methanol:water (2:1, 150 ml) was heated to reflux for 6.5 hours. The reaction was cooled and the solvents evaporated under reduced pressure. Water (50 ml) was added and the aqueous layer extracted with diethyl ether. The aqueous layer was then acidified to pH4/5 with acetic acid and extracted with ethyl acetate. The combined organic layers were washed (water and brine), dried (MgSO4) and the solvent evaporated under reduced pressure to yield the subtitled compound which was used in the next step without further purification.

reactant | (2,4-dimethoxy-1,3-benzothiazol-7-yl)-acetonitrile | 3.61 g | COC=1SC2=C(N1)C(=CC=C2CC#N)OC | C11H10N2O2S
reactant | potassium hydroxide | 3.45 g | [OH-].[K+]
reactant | methanol water | 150 ml | CO.O
product | (2,4-Dimethoxy-1,3-benzothiazol-7-yl)acetic acid | COC=1SC2=C(N1)C(=CC=C2CC(=O)O)OC | C11H11NO4S
